US06255285B1
To a solution of 25.0 g (0.108 mol) of Tyr-OMe.HCl in 500 ml of tert-butyl acetate, 18 ml (0.204 mol) of 70% HClO4 was added and the mixture was stirred at room temperature for 4 days. The reaction mixture was concentrated under reduced pressure and the resulting residue was dissolved in 400 ml of ethyl acetate; thereafter, the solution was poured into 800 ml of a saturated aqueous solution of NaHCO3 and the mixture was stirred. The organic layer was taken out and washed first with a saturated aqueous solution of NaHCO3, then with saturated brine, dried with anhydrous sodium sulfate, and the solvent was distilled off under reduced pressure. To the resulting residue, 500 ml of ether was added and the mixture was stirred overnight at room temperature. The precipitating crystals were recovered by filtration to give Tyr(3-tBu)-OMe in the amount of 10.9 g (40%).

reactant | Tyr-OMe.HCl | 0.108 mol, 25.0 g | N[C@@H](CC1=CC=C(C=C1)O)C(=O)OC.Cl
solvent | tert-butyl acetate | 500 ml | C(C)(=O)OC(C)(C)C | C6H12O2
product | Tyr(3-tBu)-OMe | N[C@@H](CC1=CC(=C(C=C1)O)C(C)(C)C)C(=O)OC | C14H21NO3
